US06355653B1
A solution of 0.29 g (0.001 mol) 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine in 50 ml dimethylformamide was treated with 0.05 g (0.001 mol) sodiumhydride(55%) for 15 minutes at room temperature. Then 0.22 g (0.001 mol) ethyl-p-toluenesulfonate were added and stirring was continued for 22 hours. Addition of sodiumhydride and p-toluenesulfonate was repeated three times. After each addition stirring was continued at 50° C. for 20 hours. Saturated aqueous sodiumbicarbonate was added and the mixture was extracted with dichloromethane. Evaporation of the solvent and chromatography on silicagel with dichloromethane/methanol 96/4 gave 0.05 g (15%) diethyl-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-amine as yellow oil. MS m/e (%): 343 (M+, 59), 314 (100), 300 (73), 104 (51).

reactant | 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 0.001 mol, 0.29 g | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2N)C2=CC=NC=C2)=N1 | C17H13N5
reactant | sodiumhydride | 0.001 mol, 0.05 g | [H-].[Na+]
reactant | ethyl-p-toluenesulfonate | 0.001 mol, 0.22 g | C(C)OS(=O)(=O)C1=CC=C(C=C1)C | C9H12O3S
reactant | p-toluenesulfonate | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | sodiumbicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | diethyl-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-amine | 0.05 g, 15% | C(C)N(C1=CC(=CC=2N1N=C(N2)C2=CC=CC=C2)C2=CC=NC=C2)CC | C21H21N5
